US05908842
EXAMPLE 9 N-(2-Pyridyl)-N'-(4-bromophenyl)-thiourea
The title compound was synthesized according to the procedure in Example 8 by employing 4-bromophenyl isothiocyanate instead of phenyl isothiocyanate and 2-aminopyridine instead of 4-methyl-2-aminopyridine.

reactant | 4-bromophenyl isothiocyanate | BrC1=CC=C(C=C1)N=C=S | C7H4BrNS
reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
product | N-(2-Pyridyl)-N'-(4-bromophenyl)-thiourea | N1=C(C=CC=C1)NC(=S)NC1=CC=C(C=C1)Br | C12H10BrN3S
